US05180735
To an about 14% methanol solution (6 ml) of sodium methoxide were added, under ice-cooling, 2-mercaptomethylbenzylalcohol (655 mg) and fumagillol (1.00 g). The mixture was stirred for one hour at room temperature, to which was added water to suspend the reaction. The product was extracted with ethyl acetate, The extract solution was washed with a saturated aqueous solution of sodium chloride, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (carrier 30 g, developing solvent : ethyl acetate - hexane=2:1) to give 2-(1,2-epoxy-1,5-dimethy-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol (1.43 g : yield 92%) as a colorless oily substance.

reactant | methanol | 6 ml | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-mercaptomethylbenzylalcohol | 655 mg | SCC1=C(CO)C=CC=C1 | C8H10OS
reactant | fumagillol | 1.00 g | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)O)OC)C | C16H26O4
solvent | water | O | H2O
product | 2-(1,2-epoxy-1,5-dimethy-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol | 1.43 g, yield 92% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSCC1=C(C=CC=C1)CO | C24H36O5S
